US08217066B2
Step 2: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-phenethyl-amine:
Prepared according to the procedure described in Example 8, Step 1, using 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde and 2-phenylethylamine.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 2-phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-phenethyl-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CNCCC1=CC=CC=C1 | C19H19BrN2O
